* C:\Documents and Settings\Michael Walsh\My Documents\GitHub\EMF_Sensor\sim_oscillators\RelaxationOscillator_TL072_v4.sxsch
*#SIMETRIX
X2 R2_N C1_P OP_PWR_POS 0 SquareOutput TL072 pinnames: inp inn vsp vsn out
V1 OP_PWR_POS 0 9
R1 SquareOutput C1_P 20k
R2 SquareOutput R2_N 20k
R3 R2_N R6_N 20k
R4 SquareOutput 0 100Meg
R6 OP_PWR_POS R6_N 1k
R7 R6_N 0 1k
C1 C1_P 0 10n IC=1  BRANCH={IF(ANALYSIS=2,1,0)}
C2 R6_N 0 100u  
.GRAPH SquareOutput axisType="auto" persistence=-1 curveLabel="Square" xLog="auto" yLog="auto"  nowarn=true 
.GRAPH R6_N axisType="auto" persistence=-1 curveLabel="PotentialDivider" xLog="auto" yLog="auto"  nowarn=true 
.TRAN 0 10m 0 2m

